US08242104B2
8-bromo-2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene and (S)-2-amino-3-methoxypropanoic acid hydrochloride were reacted to form (S)-3-Methoxy-2-{2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino}-propionic acid. LCMS: RT=2.89 min, [M+H]+=453

reactant | 8-bromo-2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)CC(F)(F)F)C=C1 | C15H11BrF3N5O
reactant | (S)-2-amino-3-methoxypropanoic acid hydrochloride | Cl.N[C@H](C(=O)O)COC
product | (S)-3-Methoxy-2-{2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino}-propionic acid | COC[C@@H](C(=O)O)NC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)CC(F)(F)F)C=C1 | C19H19F3N6O4
